** Name: SimpleTwoStageOpAmp_SimpleOpAmp13_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp13_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=92e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=47e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=275e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=275e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=343e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=95e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=146e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=95e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=45e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=331e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=3e-6 W=275e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=227e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=275e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp13_8

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 12.3331 mW
** Area: 6884 (mu_m)^2
** Transit frequency: 16.8321 MHz
** Transit frequency with error factor: 16.8226 MHz
** Slew rate: 16.0336 V/mu_s
** Phase margin: 60.1606°
** CMRR: 110 dB
** negPSRR: 105 dB
** posPSRR: 99 dB
** VoutMax: 4.59001 V
** VoutMin: 0.380001 V
** VcmMax: 3.98001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 240.11 muA
** NormalTransistorPmos: -1136.98 muA
** DiodeTransistorPmos: -36.9659 muA
** NormalTransistorPmos: -36.9669 muA
** NormalTransistorPmos: -36.9659 muA
** DiodeTransistorPmos: -36.9669 muA
** NormalTransistorNmos: 73.9301 muA
** NormalTransistorNmos: 36.9651 muA
** NormalTransistorNmos: 36.9651 muA
** NormalTransistorNmos: 1005.65 muA
** NormalTransistorNmos: 1005.65 muA
** NormalTransistorPmos: -1005.64 muA
** DiodeTransistorNmos: 1136.99 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -240.109 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.02201  V
** outVoltageBiasXXnXX1: 0.789001  V
** outVoltageBiasXXpXX0: 3.90401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.28601  V
** innerTransistorStack1Load1: 4.28601  V
** out1: 3.57201  V
** sourceTransconductance: 1.94301  V
** innerStageBias: 0.198001  V


.END