** Name: SimpleTwoStageOpAmp_SimpleOpAmp13_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp13_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=25e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=130e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=587e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=168e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=25e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=25e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=587e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=18e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=239e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=18e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=6e-6 W=101e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=130e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=448e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=4e-6 W=445e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=2e-6 W=25e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=25e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp13_9

** Expected Performance Values: 
** Gain: 92 dB
** Power consumption: 7.54901 mW
** Area: 10690 (mu_m)^2
** Transit frequency: 13.8441 MHz
** Transit frequency with error factor: 13.8317 MHz
** Slew rate: 17.2218 V/mu_s
** Phase margin: 60.7336°
** CMRR: 101 dB
** negPSRR: 98 dB
** posPSRR: 92 dB
** VoutMax: 4.25 V
** VoutMin: 0.700001 V
** VcmMax: 3.62001 V
** VcmMin: 0.770001 V


** Expected Currents: 
** NormalTransistorNmos: 94.3851 muA
** NormalTransistorPmos: -247.602 muA
** DiodeTransistorPmos: -19.9109 muA
** NormalTransistorPmos: -19.9119 muA
** NormalTransistorPmos: -19.9109 muA
** DiodeTransistorPmos: -19.9119 muA
** NormalTransistorNmos: 39.8201 muA
** NormalTransistorNmos: 19.9101 muA
** NormalTransistorNmos: 19.9101 muA
** NormalTransistorNmos: 1118.02 muA
** DiodeTransistorNmos: 1118.02 muA
** NormalTransistorPmos: -1118.01 muA
** DiodeTransistorNmos: 247.603 muA
** NormalTransistorNmos: 247.603 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -94.3859 muA


** Expected Voltages: 
** ibias: 0.573001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.11001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outVoltageBiasXXpXX0: 3.93701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.07201  V
** innerTransistorStack1Load1: 4.07201  V
** out1: 3.21001  V
** sourceTransconductance: 1.89701  V
** inner: 0.555001  V


.END