** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=74e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=18e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=177e-6
mNormalTransistorNmos4 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=74e-6
mNormalTransistorPmos5 out ibias sourcePmos sourcePmos pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=73e-6
mNormalTransistorPmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=73e-6
mNormalTransistorPmos8 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=125e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_1

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 2.13901 mW
** Area: 2399 (mu_m)^2
** Transit frequency: 16.4851 MHz
** Transit frequency with error factor: 16.4612 MHz
** Slew rate: 17.0271 V/mu_s
** Phase margin: 60.1606°
** CMRR: 100 dB
** negPSRR: 102 dB
** posPSRR: 225 dB
** VoutMax: 4.75 V
** VoutMin: 0.150001 V
** VcmMax: 4.02001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 35.2541 muA
** NormalTransistorNmos: 35.2541 muA
** NormalTransistorPmos: -70.5089 muA
** NormalTransistorPmos: -35.2549 muA
** NormalTransistorPmos: -35.2549 muA
** NormalTransistorNmos: 337.304 muA
** NormalTransistorPmos: -337.303 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.18601  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.22801  V


.END