** Name: SimpleTwoStageOpAmp_SimpleOpAmp29_12

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp29_12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=8e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=41e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=451e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=223e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=32e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=121e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=140e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=495e-6
mNormalTransistorNmos10 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=451e-6
mNormalTransistorNmos11 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=187e-6
mNormalTransistorNmos12 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=187e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=180e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=67e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=41e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=312e-6
mNormalTransistorPmos17 out inputVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos18 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=121e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=570e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp29_12

** Expected Performance Values: 
** Gain: 136 dB
** Power consumption: 10.7691 mW
** Area: 12635 (mu_m)^2
** Transit frequency: 19.7591 MHz
** Transit frequency with error factor: 19.7385 MHz
** Slew rate: 18.6225 V/mu_s
** Phase margin: 60.1606°
** CMRR: 95 dB
** negPSRR: 155 dB
** posPSRR: 93 dB
** VoutMax: 4.25 V
** VoutMin: 0.800001 V
** VcmMax: 4.47001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 93.4071 muA
** NormalTransistorNmos: 324.909 muA
** NormalTransistorPmos: -132.009 muA
** DiodeTransistorPmos: -59.3619 muA
** NormalTransistorPmos: -59.3619 muA
** NormalTransistorNmos: 118.722 muA
** NormalTransistorNmos: 118.721 muA
** NormalTransistorNmos: 59.3611 muA
** NormalTransistorNmos: 59.3611 muA
** NormalTransistorNmos: 1474.67 muA
** DiodeTransistorNmos: 1474.67 muA
** NormalTransistorPmos: -1474.66 muA
** NormalTransistorPmos: -1474.66 muA
** DiodeTransistorNmos: 132.01 muA
** NormalTransistorNmos: 132.01 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -93.4079 muA
** DiodeTransistorPmos: -324.908 muA


** Expected Voltages: 
** ibias: 1.17301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.20201  V
** inputVoltageBiasXXpXX0: 4.00101  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.05501  V
** outSourceVoltageBiasXXnXX1: 0.601001  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.517001  V
** out1: 4.06401  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.61901  V
** inner: 0.601001  V


.END