** Name: SimpleTwoStageOpAmp_SimpleOpAmp29_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp29_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=8e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=130e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=17e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=254e-6
mNormalTransistorNmos5 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=10e-6 W=404e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=6e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=64e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=42e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=399e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=530e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=254e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp29_7

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 5.09201 mW
** Area: 14986 (mu_m)^2
** Transit frequency: 18.1471 MHz
** Transit frequency with error factor: 18.124 MHz
** Slew rate: 17.103 V/mu_s
** Phase margin: 60.1606°
** CMRR: 97 dB
** negPSRR: 195 dB
** posPSRR: 96 dB
** VoutMax: 4.72001 V
** VoutMin: 0.240001 V
** VcmMax: 4.56001 V
** VcmMin: 1.35001 V


** Expected Currents: 
** NormalTransistorNmos: 7.37101 muA
** NormalTransistorPmos: -169.998 muA
** DiodeTransistorPmos: -39.9989 muA
** NormalTransistorPmos: -39.9989 muA
** NormalTransistorNmos: 79.9951 muA
** NormalTransistorNmos: 79.9941 muA
** NormalTransistorNmos: 39.9981 muA
** NormalTransistorNmos: 39.9981 muA
** NormalTransistorNmos: 751.128 muA
** NormalTransistorPmos: -751.127 muA
** DiodeTransistorNmos: 169.999 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -7.37199 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.800001  V
** out: 2.5  V
** outFirstStage: 4.15301  V
** outVoltageBiasXXpXX0: 4.12601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.242001  V
** out1: 4.15301  V
** sourceTransconductance: 1.94501  V


.END