** Name: SimpleTwoStageOpAmp_SimpleOpAmp29_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp29_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=6e-6 W=22e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=21e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=600e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=96e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=48e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=6e-6 W=91e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=600e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=249e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=6e-6 W=371e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=249e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=132e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=21e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=309e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=508e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=48e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp29_9

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.8601 mW
** Area: 12025 (mu_m)^2
** Transit frequency: 43.7991 MHz
** Transit frequency with error factor: 43.7366 MHz
** Slew rate: 41.2798 V/mu_s
** Phase margin: 60.1606°
** CMRR: 92 dB
** negPSRR: 120 dB
** posPSRR: 90 dB
** VoutMax: 4.45001 V
** VoutMin: 0.870001 V
** VcmMax: 4.31001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 29.5681 muA
** NormalTransistorPmos: -93.9189 muA
** DiodeTransistorPmos: -59.2829 muA
** NormalTransistorPmos: -59.2829 muA
** NormalTransistorNmos: 118.564 muA
** NormalTransistorNmos: 118.563 muA
** NormalTransistorNmos: 59.2821 muA
** NormalTransistorNmos: 59.2821 muA
** NormalTransistorNmos: 2720.02 muA
** DiodeTransistorNmos: 2720.02 muA
** NormalTransistorPmos: -2720.01 muA
** DiodeTransistorNmos: 93.9181 muA
** NormalTransistorNmos: 93.9181 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -29.5689 muA


** Expected Voltages: 
** ibias: 1.14001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.27201  V
** inputVoltageBiasXXpXX0: 4.14301  V
** out: 2.5  V
** outFirstStage: 3.88601  V
** outSourceVoltageBiasXXnXX1: 0.636001  V
** outSourceVoltageBiasXXnXX2: 0.556001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.482001  V
** out1: 3.90801  V
** sourceTransconductance: 1.94501  V
** inner: 0.636001  V


.END