** Name: SimpleTwoStageOpAmp_SimpleOpAmp30_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp30_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=286e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=136e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=10e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=115e-6
mDiodeTransistorPmos6 FirstStageYinnerLoad1 FirstStageYinnerLoad1 sourcePmos sourcePmos pmos4 L=9e-6 W=248e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=581e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=10e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=110e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=589e-6
mNormalTransistorNmos11 FirstStageYinnerLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=110e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=136e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=286e-6
mNormalTransistorPmos14 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos15 outFirstStage FirstStageYinnerLoad1 sourcePmos sourcePmos pmos4 L=9e-6 W=248e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=112e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=540e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp30_10

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 13.2981 mW
** Area: 14983 (mu_m)^2
** Transit frequency: 16.3681 MHz
** Transit frequency with error factor: 16.3513 MHz
** Slew rate: 15.4268 V/mu_s
** Phase margin: 60.1606°
** CMRR: 96 dB
** negPSRR: 161 dB
** posPSRR: 95 dB
** VoutMax: 4.33001 V
** VoutMin: 0.260001 V
** VcmMax: 4.51001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorNmos: 19.7671 muA
** NormalTransistorNmos: 1167.65 muA
** NormalTransistorPmos: -217.501 muA
** DiodeTransistorPmos: -52.3789 muA
** NormalTransistorPmos: -52.3789 muA
** NormalTransistorNmos: 104.756 muA
** DiodeTransistorNmos: 104.755 muA
** NormalTransistorNmos: 52.3781 muA
** NormalTransistorNmos: 52.3781 muA
** NormalTransistorNmos: 1139.87 muA
** NormalTransistorPmos: -1139.86 muA
** NormalTransistorPmos: -1139.86 muA
** DiodeTransistorNmos: 217.502 muA
** NormalTransistorNmos: 217.502 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -19.7679 muA
** DiodeTransistorPmos: -1167.64 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 3.69601  V
** out: 2.5  V
** outFirstStage: 4.09101  V
** outInputVoltageBiasXXnXX1: 1.23601  V
** outSourceVoltageBiasXXnXX1: 0.618001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerLoad1: 4.10901  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.57501  V
** inner: 0.618001  V


.END